US08247595B2
To a solution of 1.0 g of 7-octynyl p-toluenesulfonate and 0.7 g of (3,3,3-trifluoropropylsulfonyl)acetonitrile in 30 ml of dimethyl sulfoxide was added 0.5 g of potassium carbonate at room temperature. The reaction mixture was stirred at room temperature for 2 hours, at 60° C. for 2 hours, and then at 90° C. for 6 hours. The reaction mixture was allowed to stand to cool to nearly room temperature. To the reaction mixture was added 10% hydrochloric acid and then extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The obtained residue was subjected to silica gel chromatography to obtain 0.28 g of 2-(3,3,3-trifluoropropylsulfonyl)-9-decynenitrile (hereinafter referred to as the present compound (25)).

reactant | 7-octynyl p-toluenesulfonate | 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCCC#C)C | C15H20O3S
reactant | (3,3,3-trifluoropropylsulfonyl)acetonitrile | 0.7 g | FC(CCS(=O)(=O)CC#N)(F)F | C5H6F3NO2S
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 2-(3,3,3-trifluoropropylsulfonyl)-9-decynenitrile | 0.28 g | FC(CCS(=O)(=O)C(C#N)CCCCCCC#C)(F)F | C13H18F3NO2S
